US09238631B2
d) 4-[3-(Benzyloxy)propyl]benzyl alcohol
To a solution of 4-[3-(benzyloxy)propyl]benzaldehyde (1.86 g, 7.31 mmol) in ethanol (28 mL), sodium borohydride (83 mg, 2.19 mmol) was slowly added at room temperature. The mixture was stirred for 1 h. Water (50 mL) was added, and the mixture was extracted with ethyl acetate (3×50 mL), dried over magnesium sulfate and concentrated in vacuo. The crude product was used without purification.

reactant | 4-[3-(benzyloxy)propyl]benzaldehyde | 7.31 mmol, 1.86 g | C(C1=CC=CC=C1)OCCCC1=CC=C(C=O)C=C1 | C17H18O2
reactant | sodium borohydride | 2.19 mmol, 83 mg | [BH4-].[Na+]
reactant | Water | 50 mL | O | H2O
solvent | ethanol | 28 mL | C(C)O | C2H6O
product | 4-[3-(Benzyloxy)propyl]benzyl alcohol | C(C1=CC=CC=C1)OCCCC1=CC=C(CO)C=C1 | C17H20O2
